US07173136B2
3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]-4-[4-(3-methoxyprop-1-ynyl)benzofuran-7-ylamino]quinoline
Sodium hexamethyldisilazane (1M solution in THF; 0.63 ml) was added to a mixture of [4-(3-methoxyprop-1-ynyl)benzofuran-7-yl]amine (0.06 g) and 4-chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline (0.106 g) in DMF (5 ml) that was cooled to 0° C. The resultant mixture was stirred and allowed to warm to ambient temperature for 16 hours. The reaction mixture was reduced in vacuo and partitioned between ethylacetate and water. The organics were washed with water, saturated brine and dried with magnesium sulfate. The solvent was removed in vacuo and the residue purified by column chromatography on silica using a gradient of 0–10% methanol/dichloromethane as eluent. The product fractions were combined and reduced in vacuo and the residue dissolved in minimal dichloromethane, diluted with diethyl ether and precipitated as an HCl salt by the addition of 1.0M ethereal HCl. The resultant solid was centrifuged and washed with diethyl ether (X3) and dried to give the title compound as a yellow solid. (0.077 g); NMR Spectrum: (DMSOd6 @ 373K) 2.30 (m, 2H), 2.80 (s, 3H), 3.15–3.20 (m, 2H), 3.36–3.50 (m, 11H), 4.02 (s, 3H), 4.37 (t, 2H), 4.45 (s, 2H), 7.01 (s, 1H), 7.35 (d, 1H), 7.44 (d, 1H), 7.59 (s, 1H), 8.00 (s, 1H), 8.11 (s, 1H), 8.65 (s, 1H); Mass Spectrum: M+H+ 540.14.

reactant | Sodium hexamethyldisilazane | 1M, 0.63 ml | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | [4-(3-methoxyprop-1-ynyl)benzofuran-7-yl]amine | 0.06 g | COCC#CC1=CC=C(C2=C1C=CO2)N | C12H11NO2
reactant | 4-chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline | 0.106 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | C19H23ClN4O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]-4-[4-(3-methoxyprop-1-ynyl)benzofuran-7-ylamino]quinoline | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=CC=C(C=2C=COC21)C#CCOC)OC)OCCCN2CCN(CC2)C | C31H33N5O4
